US04988694
6-Acetyl-3-acetamido-2-chloropyridine
4.937 g (0.124 mol) of MgO are suspended in 112 ml of water and the suspension is brought to pH 6 with about 16.7 ml (0.242 mol) of 65% strength HNO3. 10 g (49.4 mmol) of 3-acetamido-2-chloro-6-ethylpyridine, dissolved in 112 ml of acetone, are then added, 19.5 g (0.124 mol of KMnO4 are introduced and the mixture is stirred at 20° C. until the reaction is complete (48 hours). The solid is then filtered off with suction and the filter cake is washed thoroughly with hot acetone. The filtrate is diluted with 500 ml of water and extracted three times with 200 ml of CHCl3 each time, and the combined extracts are washed with water, dried with Na2SO4 and evaporated. For purification, the product is recrystallized from toluene/petroleum ether.

reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | 3-acetamido-2-chloro-6-ethylpyridine | 49.4 mmol, 10 g | C(C)(=O)NC=1C(=NC(=CC1)CC)Cl | C9H11ClN2O
reactant | KMnO4 | 0.124 mol | [O-][Mn](=O)(=O)=O.[K+]
solvent | water | 112 ml | O | H2O
solvent | acetone | 112 ml | CC(=O)C | C3H6O
product | 6-Acetyl-3-acetamido-2-chloropyridine | C(C)(=O)C1=CC=C(C(=N1)Cl)NC(C)=O | C9H9ClN2O2
